US05081254
Ethyl 4-(1-acetyl-4-piperidinyl)-α-(ethoxymethylene)-2,5-difluoro-β-oxobenzenepropionate
A solution of 2.68 g (7.57 mmol) ethyl 4-(1-acetyl-4-piperidinyl)-2,5-difluoro-β-oxobenzenepropionate in 16 ml of acetic anhydride and 1.9 ml of triethyl orthoformate was refluxed 1.25 hours. The title compound was isolated as a syrup after evaporation under vacuum in an oil bath at 80° C.

reactant | ethyl 4-(1-acetyl-4-piperidinyl)-2,5-difluoro-β-oxobenzenepropionate | 7.57 mmol, 2.68 g | C(C)(=O)N1CCC(CC1)C1=CC(=C(C=C1F)C(CC(=O)OCC)=O)F | C18H21F2NO4
solvent | acetic anhydride | 16 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | triethyl orthoformate | 1.9 ml | C(OCC)(OCC)OCC | C7H16O3
product | Ethyl 4-(1-acetyl-4-piperidinyl)-α-(ethoxymethylene)-2,5-difluoro-β-oxobenzenepropionate | C(C)(=O)N1CCC(CC1)C1=CC(=C(C=C1F)C(C(C(=O)OCC)=COCC)=O)F | C21H25F2NO5
